US09024018B2
8-(Benzo[d]thiazol-2-yl)-3-methylimidazo[5,1-d][1,2,3,5]tetrazin-4(3H)-one (WW-058)
Dess Martin periodinane (202 mg, 0.477 mmol) was added in small portions to a solution of 3-methyl-4-oxo-N-phenyl-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carbothioamide (300 mg (as 3:2 mixture with carboxamide), 0.434 mmol) in chloroform (60 mL) and the reaction was monitored by thin layer chromatography. The mixture was stirred for 1 hour and 20 mg of Dess Martin periodinane was added. The mixture was stirred for 30 minutes and the crude product was absorbed on silica and purified by flash chromatography using DCM:MeOH (98:2) as eluent to give the pure title compound as a bright yellow solid (12 mg, 10%). δH (DMSO d6): 8.96 (1H, s), 8.20 (1H, d, J=8.0), 8.15 (1H, d, J=8.0), 7.58 (1H, td, J=7.6, 1.3), 7.50 (1H, td, J=7.6, 1.2), 3.90 (3H, s).

reactant | Dess Martin periodinane | 0.477 mmol, 202 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
reactant | 3-methyl-4-oxo-N-phenyl-3,4-dihydroimidazo[5,1-d][1,2,3,5]tetrazine-8-carbothioamide | 0.434 mmol, 300 mg | CN1N=NC=2N(C1=O)C=NC2C(NC2=CC=CC=C2)=S | C12H10N6OS
reactant | Dess Martin periodinane | 20 mg | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | chloroform | 60 mL | C(Cl)(Cl)Cl | CHCl3
product | 8-(Benzo[d]thiazol-2-yl)-3-methylimidazo[5,1-d][1,2,3,5]tetrazin-4(3H)-one | 12 mg, 10% | S1C(=NC2=C1C=CC=C2)C=2N=CN1C2N=NN(C1=O)C | C12H8N6OS
